US07868032B2
[1S-(1α, 2α, 3α, (R*), 4α)]-2-[[3-[[[2-[(4-cyclohexylbutyl)-amino]-1-(hydroxymethyl)-2-oxoethyl]amino]carbonyl]-7-oxabicyclo[2.2.1]hept-2-yl]methyl]-4-fluoro-1-phenylmethoxy-benzene
To a solution of [1S-(1α, 2α, 3α, 4α)]-2-[[3-Carboxy-7-oxabicyclo[2.2.1]hept-2-yl]methyl]-4-fluoro-1-phenylmethoxybenzene (0.3 g, 0.825 mmol), N-(4-cyclohexyl)butyl)-L-serinamide (0.2 g, 0.825 mmol), HBOt (0.122 g, 0.91 mmol), 4-methylmorpholine (0.1 mL, 0.91 mmol) in dimethylformamide (5 mL), at 0° C. and under nitrogen atmosphere, was added portion-wise EDAC (0.174 g, 0.91 mmol). The resulting mixture was stirred for 10 minutes then it was allowed to warm slowly to room temperature and stirred for 16 h. After this time, the reaction was stopped and the solvent was evaporated under vacuum. The crude material was partitioned between ethyl acetate (15 mL) and 2M HCl (10 mL). The organic phase was separated; it was washed with a sat. solution of sodium bicarbonate (10 mL), Brine (10 mL), dried (MgSO4), filtered and the solvent evaporated “under vacuum” to give the titled product as an oil which was used in the next step without any additional purification. 1H-NMR (CDCl3, 300 MHz) δ 7.30 (m, 5H, ArH), 7.03 (t, 1H, J=5.8 Hz, CONH), 6.80 (m, 4H, ArH+NH), 5.03 (s, 2H, —OCH2Ph), 4.69 (d, 1H, J=5.1 Hz, —CH—O—), 4.42 (m, 1H, —CONHCHCO—), 4.33 (d, 1H, J=5.1 Hz, —CH—O—), 3.97 (dd, 1H, J=3.8, 11.3 Hz, —CH2OH), 3.56 (dd, 1H, J=5.5, 11.3 Hz, —CH2OH), 3.12 (m, 2H, —NCH2—), 2.73-2.40 (m, 4H, —CH—+—CH2—), 1.63-0.70 (m, 21H, —CH2—CH2—)

reactant | 2-[[3-Carboxy-7-oxabicyclo[2.2.1]hept-2-yl]methyl]-4-fluoro-1-phenylmethoxybenzene | 0.825 mmol, 0.3 g | C(=O)(O)C1C(C2CCC1O2)CC2=C(C=CC(=C2)F)OCC2=CC=CC=C2 | C21H21FO4
reactant | L-serinamide | 0.825 mmol, 0.2 g | N[C@@H](CO)C(=O)N | C3H8N2O2
reactant | 4-methylmorpholine | 0.91 mmol, 0.1 mL | CN1CCOCC1 | C5H11NO
reactant | EDAC | 0.91 mmol, 0.174 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-[[3-[[[2-[(4-cyclohexylbutyl)-amino]-1-(hydroxymethyl)-2-oxoethyl]amino]carbonyl]-7-oxabicyclo[2.2.1]hept-2-yl]methyl]-4-fluoro-1-phenylmethoxy-benzene | C1(CCCCC1)CCCCNC(C(CO)NC(=O)C1C(C2CCC1O2)CC2=C(C=CC(=C2)F)OCC2=CC=CC=C2)=O | C34H45FN2O5
